US08058447B2
Isopropyl 5-cyano-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylate
100 mg (0.53 mmol) of 2-methyl-4-oxo-4H-chromene-8-carbaldehyde are dissolved with 55.8 mg (0.53 mmol) of sodium 1-cyanoprop-1-en-2-olate, 76 mg (0.53 mmol) of isopropyl 3-aminocrotonate and 30 μl (0.53 mmol) of acetic acid in 3 ml of 2-propanol and heated under reflux under argon for 4 h. The solvent is removed in vacuo, and the residue is purified by preparative HPLC. 93 mg (46% of theory) of the title compound are obtained as a yellow solid.

reactant | 2-methyl-4-oxo-4H-chromene-8-carbaldehyde | 0.53 mmol, 100 mg | CC=1OC2=C(C=CC=C2C(C1)=O)C=O | C11H8O3
reactant | sodium 1-cyanoprop-1-en-2-olate | 0.53 mmol, 55.8 mg | C(#N)C=C(C)[O-].[Na+]
reactant | isopropyl 3-aminocrotonate | 0.53 mmol, 76 mg | N\C(=C/C(=O)OC(C)C)\C | C7H13NO2
reactant | acetic acid | 0.53 mmol, 30 μl | C(C)(=O)O | C2H4O2
solvent | 2-propanol | 3 ml | CC(C)O | C3H8O
product | Isopropyl 5-cyano-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylate | C(#N)C=1C(C(=C(NC1C)C)C(=O)OC(C)C)C=1C=CC=C2C(C=C(OC12)C)=O | C22H22N2O4
